Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
jaw pain
 
Major Surgical or Invasive Procedure:
ORIF symphysis fracture; closed reduction with maxillomandibular 
fixation for treatment of bilateral condylar fractures  

 
History of Present Illness:
___ is a ___ year old male with multiple mandible
fractures following fall 1 week ago from his bike over the
handlebars and onto his chin. Mandible fractures include: 
1. Comminuted right ramus fracture with medial rotation of the
proximal segment, 
2. Left neck fracture with medially displaced condylar head, 
3. Symphysis fracture. 
Patient also fractured tooth #15 at the CEJ. 
___ was consulted for evaluation of the mandible fractures.
Patient is in need of surgical intervention in the form of Open
Reduction Internal Fixation of the above listed fractures, with
possible Closed Reduction (wired shut), and extraction of tooth
#15, and extraction of other teeth as needed. ___ consulted for
evaluation of facial.

 
Past Medical History:
PMH:
Depression
Post-traumatic stress disorder
Alcohol abuse
                                
PSH:
Esophagus surgery
Cyst removal, Ear reconstruction / flap
GERD
ADHD

 
Social History:
___
Family History:
none on file
 
Physical Exam:
General: NAD
HEENT: 
Head: atraumatic and normocephalic
Eyes: EOM Intact, PERRLA, vision grossly normal
Ears: right ear hearing at 20% of normal, left ear normal, no
external deformities and gross hearing intact
Nose: straight septum, straight nose, non-tender, no epistaxis
EOE: limited range of motion of mandible, guarding at 25 mm, no
soft tissue swelling
TMJ: no clicking, no popping, limited range of motion, endorses
pain in left TMJ, endorses pain in right TMJ
Neurology: cranial nerves II-XII grossly intact
Neck: normal range of motion, supple, endorses hearing clicking
sound from somewhere inside when he turns his neck from side to
side
IOE: no lesions, oropharynx clear, no dysphagia, no odynophagia,
no lymphadenopathy, FOM soft non-elevated, uvula midline, no 
soft
tissue swelling, dentition grossly intact except for tooth #15
which was fractured at the CEJ during the accident, endorses 
that
occlusion has changed since the accident. Interference in right
posterior (between opposing second molars)prevents anterior 
teeth
from properly occluding, resulting in an anterior open bite. 

on discharge:

Physical Exam:
General:  AAOx3
HEENT: 
Head: atraumatic and normocephalic
Neurology:  cranial nerves II-XII grossly intact, except for
bilateral V3 paraesthesia consistent with procedure
Eyes: EOM Intact, PERRLA, no ptosis, no visual change, no
diplopia and vision grossly normal
Ears: right ear has only 20% of normal hearing (same as pre-op
condition), left ear hearing is normal, no external deformities
of either ear
Nose:  non-tender, non-tender sinuses, no saddle deformity, no
septal hematoma, no epistaxis and straight nasal dorsum
EOE:  minimal soft tissue swelling, no erythema
TMJ:  unable to evaluate due to closed reduction status
Neck: normal range of motion, supple, no masses and no
lymphadenopathy
IOE:  no lesions, unable to evaluate oropharynx or floor of 
mouth
or uvula due to closed reduction wires, dentition grossly 
intact,
closed reduction wires in tact - patient cannot open

 
Pertinent Results:
___ 06:45AM BLOOD WBC-9.5# RBC-4.18* Hgb-13.7 Hct-41.0 
MCV-98 MCH-32.8* MCHC-33.4 RDW-15.5 RDWSD-56.4* Plt ___
___ 10:30PM BLOOD WBC-5.0 RBC-4.09* Hgb-13.2* Hct-38.9* 
MCV-95 MCH-32.3* MCHC-33.9 RDW-15.6* RDWSD-54.8* Plt ___
___ 06:45AM BLOOD Plt ___
___ 10:30PM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-109* UreaN-8 Creat-0.7 Na-140 
K-4.3 Cl-99 HCO3-29 AnGap-12
___ 10:30PM BLOOD Glucose-92 UreaN-8 Creat-0.7 Na-142 K-3.8 
Cl-100 HCO3-26 AnGap-16
___ 06:45AM BLOOD Calcium-9.3 Phos-3.5 Mg-1.7

CT SINUS/MANDIBLE/MAXILLOFACIAL W/O CONTRAST
Study Date of ___ 8:25 ___

 
M
u
l
t
iple mandibular fractures: Comminuted right ramus fracture, left
s
u
b
c
o
n
d
y
l
a
r fracture with medial dislocation of the left condylar head and
nondisplaced right parasymphyseal mandibular body fracture.

CHEST (PA & LAT)
Study Date of ___ 10:48 ___

No acute cardiopulmonary abnormality.

 
Brief Hospital Course:
Mr ___ was admitted one week after a fall from bike that 
resulted in mandibular Fractures for Open reduction/internal 
fixation symphysis fracture; closed reduction with 
maxillomandibular fixation for treatment of bilateral condylar 
fractures. the surgery was uncomplicated and successful. Please 
see the operative report for details of the procedure. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a iv narcotic 
and then transitioned to oral narcotic and Tylenol once 
tolerating a diet. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: the diet was advanced sequentially to a full liquid 
diet, which was well tolerated. Patient's intake and output were 
closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a full 
liquid diet, ambulating, voiding without assistance, and pain 
was well controlled.  The patient received discharge teaching 
and follow-up instructions with understanding verbalized and 
agreement with the discharge plan. warning signs and symptoms 
and safety precautions such as having a wire cutter within reach 
on self was discussed with the patient before discharge. 

 
Medications on Admission:
Klonopin, Prilosec, Adderall 
 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H Duration: 3 Days 
RX *cephalexin 250 mg/5 mL 10 cc by mouth every six (6) hours 
Refills:*0 
2.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate [Periogard] 0.12 % rinse mouth, dont 
swallow twice a day Refills:*0 
3.  OxycoDONE Liquid 10 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg/5 mL 5 cc by mouth every six (6) hours 
Refills:*0 
4.  Pantoprazole (Granules for ___ ___ 40 mg PO DAILY 
RX *pantoprazole [Protonix] 40 mg 1 granules(s) by mouth daily 
Disp #*30 Packet Refills:*0 
5.  Amphetamine-Dextroamphetamine 30 mg PO BID  
6.  ClonazePAM 0.5 mg PO Q8H:PRN anxiety  
7.  LamoTRIgine 100 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
mandibular fractures 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Do not disturb or probe the surgical area with any
objects. The sutures placed in your mouth are usually the
type that self dissolve. If you have any sutures on the skin of
your face or neck, your surgeon will remove them on the day of
your first follow up appointment. SMOKING is detrimental to
healing and will cause complications.
Bleeding: Intermittent bleeding or oozing overnight is normal.
Placing fresh gauze over the area and biting on the gauze for
___ minutes at a time may control the bleeding. If you had
nasal surgery, you may have occasional slow oozing from your
nostril for the first ___ days. Bleeding should never be severe.
If bleeding persists or is severe or uncontrollable, please call
our office immediately. If it is after normal business hours,
please come to the emergency room and request that the oral
surgery resident on call be paged.
___: Normal healing after oral surgery should be as follows:
the first ___ days after surgery, are generally the most
uncomfortable and there is usually significant swelling. After
the first week, you should be more comfortable. The remainder
of your postoperative course should be gradual, steady
improvement. If you do not see continued improvement, please 
call
our office.
Physical activity: It is recommended that you not perform any
strenuous physical activity for a few weeks after surgery. Do
not lift any heavy loads and avoid physical sports unless you
obtain permission from your surgeon.
Swelling & Ice applications: Swelling is often associated with
surgery. Swelling can be minimized by using a cold pack, ice
bag or a bag of frozen peas wrapped in a towel, with firm
application to face and neck areas. This should be applied 20
minutes on and 20 minutes off during the first ___ days after
surgery. If you have been given medicine to control the
swelling, be sure to take it as directed.
Hot applications: Starting on the ___ or ___ day after surgery,
you may apply warm compresses to the skin over the areas of
swelling (hot water bottle wrapped in a towel, etc), for 20
minutes on and 20 min off to help soothe tender areas and help 
to
decrease swelling and stiffness. Please use caution when 
applying
ice or heat to your face as certain areas may feel numb
after surgery and extremes of temperature may cause serious
damage.
Tooth brushing: Begin your normal oral hygiene the day after
surgery. Soreness and swelling may nor permit vigorous
brushing, but please make every effort to clean your teeth with
the bounds of comfort. Any toothpaste is acceptable. Please
remember that your gums may be numb after surgery. To avoid
injury to the gums during brushing, use a child size
toothbrush and brush in front of a mirror staying only on teeth.
Mouth rinses: Keeping your mouth clean after surgery is
essential. Use _ teaspoon of salt dissolved in an 8 ounce glass
of
warm water and gently rinse with portions of the solution, 
taking
5 min to use the entire glassful. Repeat as often as you like,
but you should do this at least 4 times each day. If your 
surgeon
has prescribed a specific rinse, use as directed.
Showering: You may shower ___ days after surgery, but please ask
your surgeon about this. If you have any incisions on the
skin of your face or body, you should cover them with a water
resistant dressing while showering. DO NOT SOAK
SURGICAL SITES. This will avoid getting the area excessively 
wet.
As you may physically feel weak after surgery, initially
avoid extreme hot or cold showers, as these may cause some
patients to pass out. Also it is a good idea to make sure 
someone
is available to assist you in case if you may need help.
Sleeping: Please keep your head elevated while sleeping. This
will minimize swelling and discomfort and reduce pain while
allowing you to breathe more easily. One or two pillows may be
placed beneath your mattress at the head of the bed to prop
the bed into a more vertical position.
Pain: Most facial and jaw reconstructive surgery is accompanied
by some degree of discomfort. You will usually have a
prescription for pain medication. Some patients find that
stronger pain medications cause nausea, but if you precede each
pain pill with a small amount of food, chances of nausea will be
reduced. The effects of pain medications vary widely among
individuals. If you do not achieve adequate pain relief at first
you may supplement each pain pill with an analgesic such as
Tylenol or Motrin. If you find that you are taking large amounts
of pain medications at frequent intervals, please call our
office.
If your jaws are wired shut with elastics, you may have been
prescribed liquid pain medications. Please remember to rinse
your mouth after taking liquid pain medications as they can 
stick
to the braces and can cause gum disease and damage teeth.
Diet: Unless otherwise instructed, only a cool, clear liquid 
diet
is allowed for the first 24 hours after surgery. After 48 hours,
you can increase to a full liquid diet, but please check with
your doctor before doing this. Avoid extreme hot and cold.
If your jaws are not wired shut, then after one week, you may be
able to gradually progress to a soft diet, but ONLY if your
surgeon instructs you to do so. It is important not to skip any
meals. If you take nourishment regularly you will feel better,
gain strength, have less discomfort and heal faster. Over the
counter meal supplements are helpful to support nutritional
needs in the first few days after surgery. A nutrition guidebook
will be given to you before you are discharged from the
hospital. Remember to rinse your mouth after any food intake,
failure to do this may cause infections and gum disease and
possible loss of teeth.
Nausea/Vomiting: Nausea is not uncommon after surgery. Sometimes
pain medications are the cause. Precede each pill with
a small amount of soft food. Taking pain pills with a large 
glass
of water can also reduce nausea. Try taking clear fluids and
minimizing taking pain medications, but call us if you do not
feel better.
If your jaws are wired shut with elastics and you experience
nausea/vomiting, try tilting your head and neck to one side. 
This
will allow the vomitus to drain out of your mouth. If you feel
that you cannot safely expel the vomitus in this manner, you
can cut elastics/wires and open your mouth. Inform our office
immediately if you elect to do this. If it is after normal
business
hours, please come to the emergency room at once, and have the
oral surgery on call resident paged.
___ Instructions: If you have had a bone ___ or soft tissue
___ procedure, the site where the ___ was taken from (rib,
head, mouth, skin, clavicle, hip etc) may require additional
precautions. Depending on the site of the ___ harvest, your
surgeon will instruct you regarding specific instructions for 
the
care of that area. If you had a bone ___ taken from your hip,
we encourage you to ambulate on the day of surgery with
assistance. It is important to start slowly and hold onto stable
structures while walking. As you progressively increase your
ambulation, the discomfort will gradually diminish. If you have
any problems with urination or with bowel movements, call our
office immediately.
Elastics: Depending on the type of surgery, you may have 
elastics
and/or wires placed on your braces. Before discharge from
the hospital, the doctor ___ instruct you regarding these
wires/elastics. If for any reason, the elastics or wires break,
or if you
feel your bite is shifting, please call our office.
Medications: You will be given prescriptions, some of which may
include antibiotics, oral rinses, decongestants, nasal
sprays and pain medications. Use them as directed. A daily
multivitamin pill for ___ weeks after surgery is recommended but
not essential.
If you have any questions about your progress, please call our
office at ___ (dental school) or ___
(hospital). After normal business hours or on weekends, call the
page operator at ___ ___ and
have them page the on call Oral & Maxillofacial Surgery 
resident.

 

 
 
Followup Instructions:
___